US06562978B1
4-[(1-Acetyl-4-piperidinyl)methyl]-N-propylbenzenesulfonamide
1-Propylamine (0.586 ml, 7.13 mmol) and triethylamine (0.993 ml, 7.13 mmol) were added to a solution of 4-(1-acetylpiperidin-4-ylmethyl)benzenesulfonylchloride (1.5 g, 4.75 mmol) in THF (20 ml) and this mixture was refluxed for 5 h. After having been cooled, 1N hydrochloric acid (20 ml) was added. The resulting mixture was extracted with ethyl acetate (20 ml×2). The combined organic layers were washed with saturated sodium chloride solution (40 ml), and then dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by flash column chromatography (silica gel 25 g, ethyl acetate to ethyl acetate/methanol=10/1) to give the title compound (1.15 g, 71%) as pale yellow oil.

reactant | 1-Propylamine | 7.13 mmol, 0.586 ml | C(CC)N | C3H9N
reactant | triethylamine | 7.13 mmol, 0.993 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-acetylpiperidin-4-ylmethyl)benzenesulfonylchloride | 4.75 mmol, 1.5 g | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)Cl | C14H18ClNO3S
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[(1-Acetyl-4-piperidinyl)methyl]-N-propylbenzenesulfonamide | 1.15 g, 71% | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)NCCC | C17H26N2O3S
